US08247403B2
(3) 9-(3-methoxypropyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-(3-methoxypropyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (170 mg, 0.529 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (2 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of isopropyl alcohol and diisopropyl ether to give the desired product (106 mg, 77.9%) as a solid.

reactant | tert-butyl 9-(3-methoxypropyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.529 mmol, 170 mg | COCCCC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C18H27NO4
reactant | hydrogen chloride-ethyl acetate | 4N, 2 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 9-(3-methoxypropyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 106 mg, 77.9% | Cl.COCCCC1=CC=CC=2CNCCOC21 | InChI=1S/C13H19NO2.ClH/c1-15-8-3-6-11-4-2-5-12-10-14-7-9-16-13(11)12;/h2,4-5,14H,3,6-10H2,1H3;1H
